US04876343
Sodium ethoxide, 21 weight percent in ethanol, 204 g (0.63 mol) (5% less than theory to prevent racemization), is added to a solution of 200 g (0.67 mol) of (S)-α-[[3-ethoxy-1,3-dioxopropyl]amino]cyclohexanepropanoic acid, methyl ester in 650 ml of absolute ethanol. The solution is heated to reflux for 5 minutes, cooled and treated with about 1.5 liters of diethyl ether to precipitate the sodium salt of the product. The mixture is filtered, washed with 500 ml of diethyl ether and then with 100 ml of petroleum ether. The cake is dried on the funnel using a rubber-dam to prevent moisture from condensing to afford 178.8 g of (S)-5-(cyclohexylmethyl)-2,5-dihydro-4-hydroxy-2-oxo-1H-pyrrole-3-carboxylic acid, ethyl ester, sodium salt. The previous sodium salt is dissolved in 1 liter of water and 325 ml of 2N hydrochloric acid is added to precipitate a large taffy-like clump of material which gradually crystallizes. The clumps are broken up in a mortar and the mixture filtered, washed with water and dried to afford 143.2 g of (S)-5-(cyclohexylmethyl)-2,5-dihydro-4-hydroxy-2-oxo-1H-pyrrole-3-carboxylic acid, ethyl ester after dissolution in 105 methanol-chloroform at room temperature, charcoaling and concentration; mp 176°-180° C.; [α]D23 =-68.9° (c=1.02% methanol).

reactant | Sodium ethoxide | [O-]CC.[Na+]
reactant | (S)-α-[[3-ethoxy-1,3-dioxopropyl]amino]cyclohexanepropanoic acid, methyl ester | 0.67 mol, 200 g | C(C)OC(CC(=O)N[C@H](C(=O)OC)CC1CCCCC1)=O | C15H25NO5
reactant | diethyl ether | about 1.5 liters | C(C)OCC | C4H10O
reactant | sodium | [Na] | Na
solvent | ethanol | C(C)O | C2H6O
solvent | ethanol | 650 ml | C(C)O | C2H6O
product | (S)-5-(cyclohexylmethyl)-2,5-dihydro-4-hydroxy-2-oxo-1H-pyrrole-3-carboxylic acid, ethyl ester | 178.8 g | C1(CCCCC1)C[C@H]1C(=C(C(N1)=O)C(=O)OCC)O | C14H21NO4
